US08431563B2
A 20 mL vial was charged with tert-butyl (3R)-3-((phenylsulfonyl)methyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate (0.038 g, 0.065 mmol), TFA (0.50 mL, 6.5 mmol, Sigma-Aldrich, St. Louis, Mo.) and DCM (1 mL). The mixture was stirred at rt for 10 min. The volatile was removed and the residue was taken into DCM (1 mL). TEA (0.10 mL, 0.78 mmol) was added and the mixture was stirred at rt for 5 min. At this time, 6-chloropyridine-3-sulfonyl chloride (0.016 g, 0.073 mmol, Organic Process Research & Development 2009, 13, 875) was added and the mixture was stirred at rt for 10 min. The reaction mixture was directly purified by column chromatography (10 g of silica, 0 to 50% EtOAc in hexanes) to afford 2-(4-((2R)-4-((6-chloro-3-pyridinyl)sulfonyl)-2-((phenylsulfonyl)methyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.026 g) as a white solid.

reactant | tert-butyl (3R)-3-((phenylsulfonyl)methyl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | 0.065 mmol, 0.038 g | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC(C)(C)C | C25H28F6N2O5S
reactant | TFA | 6.5 mmol, 0.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-chloropyridine-3-sulfonyl chloride | 0.073 mmol, 0.016 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((2R)-4-((6-chloro-3-pyridinyl)sulfonyl)-2-((phenylsulfonyl)methyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.026 g | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CS(=O)(=O)C1=CC=CC=C1 | C25H22ClF6N3O5S2
